US04096253
A solution of lithium chloride (1.3 g, 31 mM) in 9 ml of anhydrous dimethylformamide is heated to 70° and then cooled to room temperature. 1-Acetoxy-16α-bromo-3-methoxyestra-1,3,5(10)-trien-17-one (0.50 g) is added to the solution as a solid using Gooch tubing. The resulting suspension is heated to 50° to effect solution. The solution is then stirred at room temperature for 5 hr, poured into 100 ml of H2O, filtered and dried in vacuo to give a white solid. Recrystallization from methanol gives 1-acetoxy-16β-chloro-3-methoxyestra-1,3,5(10)-trien-17-one, yield 0.40 g (89%); m.p. 164°-166°.

reactant | lithium chloride | 31 mM, 1.3 g | [Cl-].[Li+]
reactant | 1-Acetoxy-16α-bromo-3-methoxyestra-1,3,5(10)-trien-17-one | 0.50 g | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C12)=O)Br)OC | C21H25BrO4
reactant | H2O | 100 ml | O | H2O
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | 1-acetoxy-16β-chloro-3-methoxyestra-1,3,5(10)-trien-17-one | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4C[C@@H](C([C@@]4(C)CC[C@@H]3C12)=O)Cl)OC | C21H25ClO4
